US07598384B2
2-Isopropylsulfanyl-7,7-dimethyl-5-oxo-5,6,7,8-tetrahydroquinoline-3-carbonitrile
In analogy to the procedure described in Example 1, 7,7-dimethyl-5-oxo-2-thioxo-1,2,5,6,7,8-hexahydroquinoline-3-carbonitrile was treated with 2-bromopropane to give the title compound in 21% yield.

reactant | 7,7-dimethyl-5-oxo-2-thioxo-1,2,5,6,7,8-hexahydroquinoline-3-carbonitrile | CC1(CC(C=2C=C(C(NC2C1)=S)C#N)=O)C | C12H12N2OS
reactant | 2-bromopropane | BrC(C)C | C3H7Br
product | 2-Isopropylsulfanyl-7,7-dimethyl-5-oxo-5,6,7,8-tetrahydroquinoline-3-carbonitrile | 21% yield | C(C)(C)SC1=NC=2CC(CC(C2C=C1C#N)=O)(C)C | C15H18N2OS
